US07285669B2
According to one aspect of the present invention there is provided a method of synthesising 2,6-diamino-4,5,6,7-tetrahydro-benzothiazole, which method comprises comprising: (i) reacting bromine with a solution of 4-acetamido-cyclohexanone in water to produce 2-bromo-4-acetamido-cyclohexanone; (ii) after step (i), adding thiourea to produce 6-acetylamino-2-amino4,5,6,7-tetrahydro-benzthiazole-dihydrobromide; (iii) after step (ii), adding an aqueous solution of hydrobromic acid to produce 2,6-diamino-4,5,6,7-tetrahydro-benzthiazole; and (iv) after step (iii), isolating 2,6-diamino-4,5,6,7-tetrahydro-benzthiazole free base.

reactant | 2,6-diamino-4,5,6,7-tetrahydro-benzothiazole | NC=1SC2=C(N1)CCC(C2)N | C7H11N3S
reactant | bromine | BrBr | Br2
reactant | 4-acetamido-cyclohexanone | C(C)(=O)NC1CCC(CC1)=O | C8H13NO2
solvent | water | O | H2O
product | 2-bromo-4-acetamido-cyclohexanone | BrC1C(CCC(C1)NC(C)=O)=O | C8H12BrNO2
